* source WEEK03
V_V1         N14424 0  
+PULSE 0V 12V 0 1n 1n 3m 1m
R_R1         N14424 N14543  220 TC=0,0 
C_C1         0 N14547  4.7u  TC=0,0 
L_L1         N14543 N14547  33m  TC=0,0 
I_I1         0 N14848 DC 3Adc  
V_V2         N14877 0 5Vdc
Q_Q1         N14877 N14848 0 QbreakN 
