* source WEEK05
V_V3         N15798 0  
+PULSE 0 5 25u 10n 10n 5u 10u
X_U2         0 N15139 V+ V- N15149 LM741
C_C2         N15798 N15139  1n  TC=0,0 
R_R1         N15139 N15149  1k TC=0,0 
C_C3         N16193 N16018  1n  TC=0,0 
R_R2         N16232 N16193  1k TC=0,0 
V_V4         N16232 0  
+PULSE 0 5 0 10n 10n 5u 10u
X_U3         0 N16193 V+ V- N16018 LM741
